US08633205B2
4-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine (Compound 3)
A mixture of 4-cyclopentenyl-7H-pyrrolo[2,3-d]pyrimidine (11 mg, 0.060 mmol) and Pd-C (10% on carbon, 22 mg) in EtOAc (1 mL) was stirred under H2 atmosphere (balloon) for 5 h. The mixture was filtered and concentrated to provide the title compound (10 mg) as a white solid.

reactant | 4-cyclopentenyl-7H-pyrrolo[2,3-d]pyrimidine | 0.060 mmol, 11 mg | C1(=CCCC1)C=1C2=C(N=CN1)NC=C2 | C11H11N3
solvent | EtOAc | 1 mL | CCOC(=O)C | C4H8O2
catalyst | Pd-C | 22 mg | [Pd] | Pd
product | 4-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine | 10 mg | C1(CCCC1)C=1C2=C(N=CN1)NC=C2 | C11H13N3
